US09359371B2
In THF (20 mL) were dissolved 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-chloro-4-methoxybenzyl)amino)-pyrimidine-5-carboxylic acid (150 mg, 0.40 mmol), tert-butyl 4-(aminomethyl)piperidine-1-carboxylate (128 mg, 0.60 mmol) and HATU (182 mg, 0.48 mmol). DIEA (0.20 mL, 1.2 mmol) was added dropwisely. The reaction was conducted at ambient temperature for 8 h. The reaction mixture was concentrated, followed by addition of water and extraction with DCM. The organic phase was dried, concentrated, and purified by silica gel column chromatography (DCM/methanol=50/1) to give a white solid. The product was dissolved in DCM (10 mL), and trifluoroacetic acid (1 mL) was added. The reaction was conducted at ambient temperature for 4 h. Then the reaction mixture was adjusted to a pH of 9 with saturated aqueous sodium bicarbonate. The organic phase was dried and the solvent was removed by rotary evaporation to give 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-chloro-4-methoxybenzyl)amino)-N-(piperdin-4-ylmethyl)pyrimidine-5-formamide (34 mg, 18% yield).

reactant | 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-chloro-4-methoxybenzyl)amino)-pyrimidine-5-carboxylic acid | 0.40 mmol, 150 mg | C12CN(CC2C1)C1=NC=C(C(=N1)NCC1=CC(=C(C=C1)OC)Cl)C(=O)O | C18H19ClN4O3
reactant | tert-butyl 4-(aminomethyl)piperidine-1-carboxylate | 0.60 mmol, 128 mg | NCC1CCN(CC1)C(=O)OC(C)(C)C | C11H22N2O2
reactant | HATU | 0.48 mmol, 182 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.2 mmol, 0.20 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-chloro-4-methoxybenzyl)amino)-N-(piperdin-4-ylmethyl)pyrimidine-5-formamide | 34 mg, 18% yield | C12CN(CC2C1)C1=NC=C(C(=N1)NCC1=CC(=C(C=C1)OC)Cl)C(=O)NCC1CCNCC1 | C24H31ClN6O2
